US05486511
17β-cyclopropyloxy-androst-4-en-3-one (9.70 g, 29.5 mM), potassium tert-butoxide (7.0 g, 62.4 mM), and isopropyl nitrate (2.99 ml) are reacted by the method of Example 1 to yield 17β-cyclopropyloxy-4-nitroandrost-4-en-3-one, m.p. 137°-38° C. (methanol) IR (CHCl3) , 1695, 1622(m) , 1535, 1373 cm-1MS(CI) 374(100%, M+10, 316(20%, M+1-c-C3H5 -O) 1H-NMR (CDCl3) 0.38-0.61(4H, m), 0.80(3H, s, C18 -Me), 1.29(s, C19 -Me), 3.25-3.33(1H, m, cyclopropyl-CHO), 3.44(1H, t, C17 -H) .

reactant | 17β-cyclopropyloxy-androst-4-en-3-one | 29.5 mM, 9.70 g | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C22H32O2
reactant | potassium tert-butoxide | 62.4 mM, 7.0 g | CC(C)([O-])C.[K+]
reactant | isopropyl nitrate | 2.99 ml | [N+](=O)(OC(C)C)[O-] | C3H7NO3
reactant | methanol | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 17β-cyclopropyloxy-4-nitroandrost-4-en-3-one | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)[N+](=O)[O-] | C22H31NO4
